* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1466.asc
* Generated by LTspice 24.1.9 for Windows.
V1 V+ 0 3.3
R1 N001 IN 29.4K
V2 IN 0 SINE(1.65 1 10k)
C1 N002 N001 10n
R2 N003 N002 8.66K
C2 N004 N003 10n
R3 N005 N004 11.8K
C3 N006 N005 10n
R4 N007 N006 21.5K
C4 OUT N007 10n
R5 N008 V+ 10K
R6 N008 0 10K
R7 OUT N009 11.8K
X§U5 N004 N001 V+ 0 N002 LT1466
X§U6 N008 N003 V+ 0 N004 LT1466
X§U7 N009 N005 V+ 0 N006 LT1466
X§U8 N008 N007 V+ 0 OUT LT1466
* 4-Pole 1KHz, 3.3V Single Supply, State Variable Filter
.tran 5m
.lib LT1466.sub
.backanno
.end
