* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1497.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 -V 0 -5
R1 N007 N006 560
R2 N002 N006 560
R3 N002 N001 560
R4 N001 0 560
V3 N004 0 PULSE(0 1 0 10n 10n .5u 1u)
R5 N003 N002 68.1
R6 N008 N007 68.1
L1 N003 N008 1m
L2 N005 0 1m
Rload N005 0 135
X§U1 N004 N001 +V -V N002 LT1497
X§U2 0 N006 +V -V N007 LT1497
.tran 50u
K1 L1 L2 1
* HSDL2 Single Pair Line Driver
.lib LT1497.sub
.backanno
.end
