* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1505.asc
* Generated by LTspice 24.1.9 for Windows.
M§Q1 N003 N008 N009 N009 Si4412DY
M§Q2 N009 N012 0 0 Si4412DY
L1 N009 N010 15µ
D1 0 N009 MBRS140
R1 N010 OUT .025
R2 N010 N025 200
R3 OUT N026 200
R4 N016 0 4.93K
R5 N016 N019 300
R6 N014 N015 3K
C1 N019 0 1µ
C2 N015 0 .33µ
C3 N021 0 .1µ
R7 N003 N020 5K
C4 N001 N009 .68µ
C5 N005 0 2.2µ
D2 N005 N001 1N4148
D3 N001 N004 1N4148
C6 N004 0 .1µ
R8 IN N017 100K
R9 N013 0 4K
R10 IN N013 4K
C7 N003 0 47µ
V1 IN 0 24
V2 OUT 0 PWL(0 12 1m 12 10m 17)
R11 N008 N007 5
M§Q3 IN N011 N002 N002 Si9803DY
X§U1 N001 N007 N009 MP_01 N017 0 N013 N011 N006 N003 N023 N021 N020 N024 N018 N018 N018 N014 N016 OUT N025 N010 N026 N003 N004 N005 N012 0 LT1505
R12 N002 N003 .025
C8 N003 N006 1µ
R13 N022 N023 1K
C9 N022 0 .68µ
R14 N006 N002 500
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 10m
.ic V(vc)=1 V(prg)=2.5
.lib LT1505.sub
.backanno
.end
