* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1506.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
C1 N004 0 .0015µ
C2 OUT 0 100µ Rser=50m
L1 N003 OUT 5µ
C3 N001 N003 .68µ
R1 OUT N005 1.82K
R2 N005 0 4.99K
D1 OUT N001 1N914
D2 0 N003 MBRS340
X§U1 IN N001 N005 0 N004 N002 MP_01 N003 LT1506 top=10 bot=1T
Rload OUT 0 1
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 500u startup
.lib LT1506.sub
.backanno
.end
