* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1533.asc
* Generated by LTspice 24.1.9 for Windows.
L1 N005 0 1200µ Rser=0.02 Rpar=5000
L2 IN N004 300µ Rser=0.02 Rpar=5000
L3 0 N002 1200µ Rser=0.02 Rpar=5000
L4 N001 IN 300µ Rser=0.02 Rpar=5000
D1 N005 N003 1N5817
D2 N002 N003 1N5817
R1 OUT N015 7.50K
R2 N015 0 2.49K
R3 N013 0 16.9K
R4 N016 N017 6.8K
R5 0 N010 17K
R6 0 N012 17K
C1 N011 0 1000p
C2 0 N016 1500p
C3 N017 0 .015µ
V1 IN 0 3.3
L5 N003 OUT 100µ Rpar=5000
C4 OUT 0 100µ
X§U1 MP_01 N001 MP_02 MP_03 N011 N013 N015 N018 0 N016 N014 N012 N010 IN N004 N007 LT1533
Rload 0 OUT 50
L6 N007 0 25n Rser=0.02 Rpar=5000
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 5m startup
K1 L1 L2 L3 L4 1.
.lib LT1533.sub
.backanno
.end
