* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1573.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N001 N005 0 0 N007 N006 N004 N002 LT1573
C1 N003 N002 100p
R1 N004 N003 1K
Q1 N004 N008 N006 0 D45H11
R2 N008 N007 24
R3 N006 N008 50
C2 N005 0 .5µ
C3 N004 0 250µ Rser=.1
R4 N004 N001 1.6K
R5 N001 0 1K
V1 N006 0 5
Rload N004 0 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1m startup
.lib LT1573.sub
.backanno
.end
