* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1610.asc
* Generated by LTspice 24.1.9 for Windows.
C2 OUT 0 22µ Rser=0.05
D1 N001 OUT MBRS140
L1 IN N001 4.7µ Rser=0.02 Rpar=5000
R1 OUT N003 1Meg
R2 N003 0 324K
V1 IN 0 1.5
X§U1 N004 N003 N002 0 N001 IN 0 N004 LT1610
Rload OUT 0 100
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 2m startup
.lib LT1610.sub
.backanno
.end
