* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1615.asc
* Generated by LTspice 24.1.9 for Windows.
C2 OUT 0 1µ
D1 N001 OUT MBR0540
L1 IN N001 10µ Rpar=20K
R1 N002 0 130K
R2 OUT N002 2Meg
V1 IN 0 3.3
X§U1 N001 0 N002 IN IN LT1615
Rload OUT 0 2K
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1615.sub
.backanno
.end
