* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1618.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N002 IN IN N005 0 MP_01 N001 IN IN N003 LT1618
L1 IN N001 10µ Rpar=2K
D1 N001 OUT MBRS360
R1 OUT N002 909K
R3 N003 N004 2K
R2 N002 0 107K
C1 OUT 0 4.7µ Rser=50m
C2 N004 0 .01µ
V1 IN 0 5
R6 N005 0 13K
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1618.sub
.backanno
.end
