* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1632.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 3
R1 N003 N001 2K
R2 N001 0 20K
X§U1 IN- N001 +V 0 N003 LT1632
R3 N002 N003 2K
R4 N002 N001 432
R5 OUT N002 20K
X§U2 IN+ N002 +V 0 OUT LT1632
V2 IN+ IN- SINE(14.5m 10m 500K)
V3 IN+ 0 SINE(1.5 .1 50K)
.tran 50u
* Single Supply, 40dB Gain, 550KHz Instrumentation Amplifier
.lib LTC.lib
.backanno
.end
