* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1635.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
R1 OUT N001 1K
R2 N001 0 1K
V3 IN 0 SINE(1.25 .5 1K)
X§U1 IN N001 +V 0 OUT REF REF LT1635
.tran 3m
.lib LTC.lib
.backanno
.end
