* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1672.asc
* Generated by LTspice 24.1.9 for Windows.
R1 V+ N001 0.1
R7 CHARGE 0 2K
R3 N003 V+ 200
R5 N005 N001 200
R6 DISCHARGE 0 2K
R2 N002 N001 200
R4 N004 V+ 200
I1 0 N001 SINE(0 1 1)
X§U2 N005 N003 OUTB V+ 0 LT1672
X§U1 N004 N002 OUTA V+ 0 LT1672
V1 V+ 0 12
Q1 N004 OUTA DISCHARGE 0 2N2222
Q2 N005 OUTB CHARGE 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1
* Battery Current Monitor
.lib LT1672.sub
.backanno
.end
