* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1673.asc
* Generated by LTspice 24.1.9 for Windows.
R2 DISCHARGE 0 2k
R6 N005 N001 200
R7 N004 N002 200
R5 CHARGE 0 2k
R3 N002 N006 200
R4 N001 N003 200
R1 N002 N001 0.1
V1 N002 0 12
I1 0 N001 SINE(0 1 1)
X§U1 N004 N005 OUTA N002 0 N003 N006 OUTB LT1673
Q1 N003 OUTB CHARGE 0 2N2222
Q2 N004 OUTA DISCHARGE 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
* Battery Current Monitor
.tran 1
.lib LT1673.sub
.backanno
.end
