* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1674.asc
* Generated by LTspice 24.1.9 for Windows.
R2 DISCHARGE 0 2k
R4 N004 N001 200
R7 V+ N002 200
R3 CHARGE 0 2k
R5 V+ N005 200
R6 N001 N003 200
R1 V+ N001 0.1
V1 V+ 0 12
I1 0 N001 SINE(0 1 1)
X§U2 N002 N004 OUTA V+ 0 N006 N007 N007 N006 N008 N008 N003 N005 OUTD LT1674
R8 V+ N006 2k
R9 N006 0 2k
Q1 N003 OUTD CHARGE 0 2N2222
Q2 N002 OUTA DISCHARGE 0 2N2222
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
* Battery Current Monitor
.tran 1
.lib LT1674.sub
.backanno
.end
