* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1677.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 1.5
V2 -V 0 -1.5
R1 OUT N003 1Meg
R2 N003 N002 10K
X§U1 0 N003 +V -V OUT LT1677
C1 N001 0 Q=100p*sin(2*pi*2K*time)
R3 N001 +V 10K
C2 N002 N001 .68µ
.tran 3m
* 3V Electret Microphone Amplifier
.lib LTC.lib
.backanno
.end
