* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1711.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
X§U2 N006 N001 +V 0 0 N002 SQUARE 0 LT1711
C1 P001 N006 1.6p Rser=45 Lser=15.6m Cpar=6p
R1 N006 0 1K
R2 +V N006 1K
R3 N002 N001 1K
C2 N001 0 .1µ
R4 N002 P001 210
X§U1 N007 N005 +V 0 SINE NC_01 LT1806
R5 SINE N005 15.8K
C3 N005 N004 100p
C4 SINE N004 100p
R6 N003 N002 1K
C5 0 N003 100p
R7 N007 0 1K
R8 +V N007 1K
C6 0 N007 .1µ
R9 N004 N003 6.49K
R10 0 N004 162
.tran 150u startup
* 1MHz Crystal Oscillator with Square and Sine Wave Outputs
.lib LT1711.sub
.lib LTC.lib
.backanno
.end
