* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1715.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V2 N001 0 PULSE(0 2 0 .5u .5u 0 1u)
V3 N003 0 1
X§U1 N003 N001 +V 0 +V 0 N002 LT1715
.tran 3u
.lib LT1715.sub
.backanno
.end
