* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1716.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 5
V3 N001 0 PULSE(0 2 0 .5m .5m 0 1m)
V2 N003 0 1
X§U1 N003 N001 +V 0 N002 LT1716
.tran 3m
.lib LT1716.sub
.backanno
.end
